US06552188B2
Synthesis of N-(3,4,5-trimethoxycinnamoyl)-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine
1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine (103 mg) and 3,4,5-trimethoxycinnamic acid (65 mg) were reacted in the same manner as in Example 56 to obtain the title compound as a free base.

reactant | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine | 103 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCNCC1 | C19H25N3O3
reactant | 3,4,5-trimethoxycinnamic acid | 65 mg | COC=1C=C(C=CC(=O)O)C=C(C1OC)OC | C12H14O5
product | N-(3,4,5-trimethoxycinnamoyl)-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine | COC=1C=C(C=CC(=O)N2CCN(CC2)CC2=CC(=NC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=C(C1OC)OC | C31H37N3O7
